US06559091B1
A solution of 2-(Naphthalene-1-carbonyl)-4-oxo-4-phenyl-butyric acid ethyl ester (1 g, 2.77 mmol) in toluene (6.5 mL) was treated with Hydrazinecarboxylic acid 2-trimethylsilanyl-ethyl ester (599 mg, 3.34 mmol) and p-toluene sulfonic acid (33 mg). The resulting solution was heated to reflux, with the azeotropic removal of water (Dean Stark trap), under Ar for 6 h, cooled to rt and concentrated in vacuo to afford 2-Naphthalen-1-yl-5-phenyl-1-(2-trimethylsilanyl-ethoxycarbonylamino)-1H-pyrrole-3-carboxylic acid ethyl ester (1.33 g), which was not purified, but used immediately in the next reaction.

reactant | 2-(Naphthalene-1-carbonyl)-4-oxo-4-phenyl-butyric acid ethyl ester | 2.77 mmol, 1 g | C(C)OC(C(CC(C1=CC=CC=C1)=O)C(=O)C1=CC=CC2=CC=CC=C12)=O | C23H20O4
reactant | Hydrazinecarboxylic acid 2-trimethylsilanyl-ethyl ester | 3.34 mmol, 599 mg | C[Si](CCOC(=O)NN)(C)C | C6H16N2O2Si
reactant | water | O | H2O
solvent | toluene | 6.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluene sulfonic acid | 33 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-Naphthalen-1-yl-5-phenyl-1-(2-trimethylsilanyl-ethoxycarbonylamino)-1H-pyrrole-3-carboxylic acid ethyl ester | 1.33 g | C(C)OC(=O)C1=C(N(C(=C1)C1=CC=CC=C1)NC(=O)OCC[Si](C)(C)C)C1=CC=CC2=CC=CC=C12 | C29H32N2O4Si
